US07166599B2
2-(4-chlorophenylamino)-4-methylamino-5-formylamino-pyrimidine
200 mg of 2-(4-chlorophenylamino)-4-methylamino-5-amino-pyrimidine are refluxed in 5 ml of formic acid for 5 hours. The reaction mixture is evaporated to dryness and then the residue is stirred with 15 ml of water. The solid is suction filtered, washed with water, briefly boiled with 15 ml ethanol, cooled, suction filtered again, then washed with hot ethanol and dried.

reactant | 2-(4-chlorophenylamino)-4-methylamino-5-amino-pyrimidine | 200 mg | ClC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC)N | C11H12ClN5
reactant | formic acid | 5 ml | C(=O)O | CH2O2
product | 2-(4-chlorophenylamino)-4-methylamino-5-formylamino-pyrimidine | ClC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC)NC=O | C12H12ClN5O
